US07057059B2
b) 4-propyl-1-cyclohexene
19 g 4-propyl-1-cyclohexanol are mixed with 16 g KHSO4 and stirred for one week at 70° C. After the addition of ethylacetate KHSO4 is filtered off. Ethylacetate is evaporated and the product obtained by fractional distillation.

reactant | 4-propyl-1-cyclohexanol | 19 g | C(CC)C1CCC(CC1)O | C9H18O
reactant | KHSO4 | 16 g | OS(=O)(=O)[O-].[K+]
reactant | ethylacetate KHSO4 | C(C)OC(C)=O.OS(=O)(=O)[O-].[K+]
product | 4-propyl-1-cyclohexene | C(CC)C1CC=CCC1 | C9H16
